US05711939
3,5,5-trimethylhexanoic acid-isodecyl ester (isomeric mixture)
The preparation from 3,5,5-trimethylhexanoic acid and isodecyl alcohol (mixture of methyl branched primary decanols from Hoechst) was analogous to Example 3; colorless liquid of medium viscosity; B.P. (1.3 mbar)=148°-154° C.

reactant | 3,5,5-trimethylhexanoic acid | CC(CC(=O)O)CC(C)(C)C | C9H18O2
reactant | isodecyl alcohol | C(CCCCCCC(C)C)O | C10H22O
product | 3,5,5-trimethylhexanoic acid-isodecyl ester | C(CCCCCCC(C)C)OC(CC(CC(C)(C)C)C)=O | C19H38O2
